* C:\Users\karab\OneDrive\Documents\GitHub\EE464-Project\Circuits\Flyback_LT8316.asc
Vin IN 0 220
L1 IN N007 380µ Rser=0.5
L2 0 N001 2.63µ Rser=0.03 Cpar=0.5p
Rsense N012 0 30m
Rload OUT 0 1.44
C3 N006 N003 47p Rser=10K
R4 N008 N009 108K
R5 N003 N008 18.9k
R6 N008 0 2.2k
D4 N007 N004 RFN1L7S
L3 0 N003 2.63µ Rser=0.6
C5 N005 0 1µ
C7 IN N007 91p Rser=25
C8 OUT 0 220µ Rser=2m
C9 N011 0 100n Rser=20K
R9 N013 0 61.9K
M1 N007 N010 N012 N012 IPU80R2K8CEBKMA1
C1 N002 0 100nf
XU1 IN MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 N005 N002 N006 N009 N008 N011 N013 0 0 N005 N012 N010 LT8316
D2 N003 N002 RB058L150
D5 IN N004 1N5378B N=2
D3 N001 OUT STD12100TR
.model D D
.lib C:\Users\karab\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\karab\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 0.993
* 12:1:1
.tran 0 160m 0 20u startup uic
.model STD12100TR D(Vrev=100 Vf=0.75)
.model IPU80R2K8CEBKMA1 VDMOS(Rg=1.2 Cjo=.29n Vds=800 Ron=2.8 Qg=12n)
.lib LT8316.sub
.backanno
.end
