* C:\Users\karab\OneDrive\Documents\GitHub\EE464-Project\Circuits\Flyback_LT8316.asc
Vin IN 0 400
L1 IN D 380µ Rser=0.5
L2 0 N001 2.63µ Rser=0.03 Cpar=0.5p
Rsense S 0 20m
Rload OUT 0 14.4
C3 N008 N003 47p Rser=10K
R4 N009 N010 108K
R5 N003 N009 18.7k
R6 N009 0 2.2k
D4 D N005 RFN1L7S
L3 0 N003 2.63µ Rser=0.6
C5 N007 0 1µ
C7 IN D 1n Rser=25
C8 OUT 0 200µ Rser=2m
C9 N011 0 100n Rser=20K
R9 N012 0 61.9K
M1 D G S S IPU80R2K8CEBKMA1
C1 N002 0 100nf
XU1 IN MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 N007 N002 N008 N010 N009 N011 N012 0 0 N007 S G LT8316
D2 N003 N002 RB058L150
D5 IN N005 1N5378B N=2
D3 N001 OUT STD12100TR
Rload1 OUT N004 1.55
Vin1 N006 0 PULSE(0 12 25m 1p 1p 5m 10m)
M2 N004 N006 0 0 BSB012N03LX3
.model D D
.lib C:\Users\karab\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\karab\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 0.993
* 12:1:1
.tran 20m 40m 0 20u startup uic
.model STD12100TR D(Vrev=100 Vf=0.75)
.model IPU80R2K8CEBKMA1 VDMOS(Rg=1.2 Cjo=.29n Vds=800 Ron=2.8 Qg=12n)
.model SW SW()
.lib LT8316.sub
.backanno
.end
